US06916345B2
6-methoxy-2-morpholin-4-ylpyrid-3-ylamine
6.19 g (0.026 mol) of the product 4-(6-methoxy-3-nitropyrid-2-yl)morpholine synthesized according to the above procedure, 50 ml of ethanol, 20 ml of cyclohexene and 2 g of palladium-on-charcoal were placed in a fully equipped round-bottomed flask.

reactant | 4-(6-methoxy-3-nitropyrid-2-yl)morpholine | COC1=CC=C(C(=N1)N1CCOCC1)[N+](=O)[O-] | C10H13N3O4
reactant | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-methoxy-2-morpholin-4-ylpyrid-3-ylamine | COC1=CC=C(C(=N1)N1CCOCC1)N | C10H15N3O2
